2149-10-26 13:48:00 Physician Resident Progress Note
Chief Complaint: Acute blood loss
   24 Hour Events:
   Passed a large blood clot per rectum with 6pt HCT drop.  Asymptomatic.
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Please see MICU admission note dated [**2149-9-24**] for further details.
   Briefly, Mr. [**Known lastname 7685**] is a 63 y.o. M with ESLD [**2-10**] ETOH cirrhosis c/b
   hepatic encephalopathy, admitted to MICU [**Location (un) **] on [**2149-9-24**] for altered
   mental status.  He had two recent admissions prior to this one.
   [**Date range (1) 8028**]: R axillary hematoma requiring massive blood product
   resuscitation.  [**Date range (1) 8675**]: R groin bleed which achieved hemostasis with
   DDAVP and aminocaproic acid.  On the evening of [**9-22**], pt's sister noted
   that he had normal mental status.  The following morning, he appeared
   confused and was not eating and had not used the bathroom.  Symptoms
   progressed and by the evening, he was awake but not verbal.  Sister
   brought him to [**Name (NI) **].
   .
   In the ED, initial VS: T 97  HR 73  BP 127/68  RR 24  100% 2 L NC.
   Paracentesis negative for SBP. RUQ US which showed GB sludge and patent
   portal vein. Received 1 L NS and flagyl 500 mg IV x 1. Transferred to
   ICU.
   .
   From [**Date range (1) 8676**], pt was in MICU [**Location (un) **].  His altered mental status was
   treated with lactulose and etiology likely medication noncompliance.
   ARF of 1.9 from baseline 0.8.  Fluid boluses given with resolution of
   ARF.  Also had BRBPR in ED, and [**Hospital1 **] Hcts monitored. Ceftriaxone IV was
   continued for ppx.  On [**9-26**], the patient was transferred to Liver
   Kidney Service ([**Hospital Ward Name 408**] 10).
   .
   From [**Date range (1) 8677**], the [**Hospital 1050**] hospital course was the following:
   * Altered mental status: treating with lactulose, rifaximin
   * ARF: first thought to be pre-renal [**2-10**] poor po intake, held
   diuretics, and resolved.  Re-initiated diuretics on [**9-28**], lasix held on
   [**10-1**].  Cr trended up on [**10-5**] and treated with albumin challenge x 2
   days and transfused with pRBC. Cr continued to trend up. Started
   midodrine and octreotide on [**10-15**]. Renal consulted, felt likely HRS and
   less likely abdominal compartment syndrome.
   * BRBPR: NG without gross blood. Hct trended.
   * Metabolic acidosis: Non AG noted which was felt to be due to diarrhea
   and r/o RTA Type 2 with urine lytes.
   * Diarrhea: Around [**2149-9-30**], pt noted to have 2.5 L watery profuse stool
   with c. diff negative. [**Month/Day/Year **] negative, CT abdomen/pelvis completed.
   * UTI: treated with ciprofloxacin x 3 days ([**10-2**])
   * Ileus/Pseudo-obstruction: On [**10-5**], CT showed stable ileus of
   transverse colon on CT and KUB. Pt still passing flatus. Flex sig on
   [**10-6**] with bowel decompression. Pt initially refused rectal tube, but
   then consented on [**10-8**]. Pt's HR and BP too low for neostigmmine.
   Surgery consulted. Started on reglan [**10-13**] without significant
   improvement.
   * Coagulopathy: Multifactorial from lupus anticoagulant and liver
   dysfunction. Large chest wall hematoma found on CT on [**10-15**].  Monitored
   with serial Hcts.
   .
   On [**10-18**], MICU consult was requested due to patient's altered mental
   status secondary to high dose narcotic. Narcan x 3 given with
   improvement in mental status.  ICU transfer deferred.
   .
   On [**10-19**], pt was transferred to MICU service due to traumatic foley
   placement with bleeding from site as well as bleeding from 3 L
   abdominal paracentesis site that was performed on [**10-18**].  He was given
   1 pRBC and 4 FFP.  Patient was called out to the floor on [**10-20**].
   .
   On [**10-26**], transferred back to the MICU for melenic stool and HCT drop
   from 23>17.  Pt without complaint.  Brown stool shortly after arrival
   but hematoma on posterior chest wall appears expanded
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Eyes: No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Tachycardia
   Nutritional Support: Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Wheeze
   Gastrointestinal: No(t) Nausea, No(t) Emesis, Diarrhea
   Genitourinary: Foley
   Integumentary (skin): Jaundice, No(t) Rash
   Heme / Lymph: Anemia, Coagulopathy
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2149-10-26**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 58 (57 - 80) bpm
   BP: 112/62(74) {98/52(64) - 119/68(78)} mmHg
   RR: 15 (15 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
           Total In:
           1,559 mL
   PO:
           TF:
   IVF:
   50 mL
   Blood products:
   1,289 mL
   Total out:
                                                                      0 mL
                                                                    125 mL
   Urine:
   125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  1,435 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ////
   Physical Examination
   General Appearance: No acute distress, No(t) Anxious
   Eyes / Conjunctiva: PERRL, No(t) Sclera edema, sclera icterus
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, No(t) Wheezes : )
   Abdominal: No(t) Soft, Bowel sounds present, Distended, high pitched
   bowel sounds; firm, distended belly
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   63 y.o. M with ESLD [**2-10**] ETOH cirrhosis c/b hepatic encephalopathy with
   lengthy hospital course c/b colonic pseudo-obstruction, traumatic foley
   placement, and bleeding from paracentesis site, transferred to ICU for
   hemodynamic monitoring.
   .
   # Blood Clot  PR x 1: Stable. H/o hemorrhoids on previous colonsocopy
   and varices on EGD (4 grade 1). Also with lupus anticoagulant.   Had
   bowel movement after coming to the ICU which was guaiac negative.
   - trend Hct, type and screen, transfuse for Hct < 22
   .
   # Coagulopathy: Has underlying liver disease as well as lupus
   anticoagulant positive.  Pt also with bleeding from abdominal para site
   and s/p traumatic foley placement
   - s/p vitamin K po x 1
   - FFP for INR > 2
   - Transfuse for HCT<22
   - Cryoprecipitate for fibrinogen < 100
   - DDAVP given, repeat PRN
   - s/p topical thrombin for abdominal wall site
   - Can use amicar for uncontrolled bleeding if necessary; dose 5gram
   loading dose over 1 hour followed by 5mg PO (check dosing interval)
   - trend Hct, plt's, INR and fibrinogen q 4 hours
   - CT scan chest wall to evaluate for expansion of hematoma
   - if rebleeds into hematoma, it is unlikely that they would be able to
   intervene because a permanent bloackade was placed in the artery
   .
   # Chest Wall Hematoma: Has been stable by imaging with ? evidence of
   slow ooze by most recent CT.
   - repeat CT to evaluate for expansion of clot
   - follow clinically
   - correct coagulopathy
   .
   # Traumatic foley placement: Pt continues to ooze from urethra around
   catheter. Per urology, foley should be continued for at least one
   week.
   - serial hcts daily
   - bladder irrigation if clots in foley bag
   - penile u/s ordered to look for urethral tear
   .
   # Abdominal Wall Bleeding: Several small hematoma in abdomen, ascitic
   fluid w/o stigmata of bleeding, and otherwise notable for massive
   ascites.
   - correct coagulopathy as above
   - active T&S
   - transfuse for Hct<22 or active bleeding, HD instability
   .
   # Colonic Pseudo-obstruction: Has failed rectal tube, did not tolerate
   NG tube, sigmoidoscopy did not result in decompression for any
   sustained period, and high risk for neostigmine given bradycardia and
   risk of heart block.
   - weekly KUBs (tomorrow)
   .
   # ESLD: Not transplant candidate given active drinking.  Plans to have
   transplant eval at [**Hospital1 **].  [**Month (only) 11**] now have hepatorenal syndrome which will
   not be helped by acute blood loss
   - transplant eval at [**Hospital1 **] on discharge
   - measure bladder pressures to r/o compartment syndrome as ascites
   reaccumulates
   .
   # Acute renal failure: likely 2/2 HRS
   - continue midodrine, octreotide
   - appreciate renal recs
   .
   # Diarrhea - Chronic, likely combination of lactulose and
   nonobstructing ileus. Colonic ileus is stable by CT and KUB. non-gap
   metabolic acidosis continues, but still likely related to diarrhea.
   Patient ambulating to bedside commode without problems. [**Name (NI) **] negative
   for celiac disease.
   - monitor labs including lytes
   - holding lactulose for now
   - replete lytes prn
   .
   # Mental Status: Opiate sedation resolving, mild asterixis.
   - avoid narcotics and sedating medications
   .
   # FEN: no IVFs / replete lytes prn / TPN
   # PPX: ranitidine, INR elevated
   # ACCESS: 1 PIV  18 gauge, 1 Double lumen PICC
   # CODE: FULL (confirmed)
   # CONTACT:  Sisters, ([**Telephone/Fax (1) 8678**] or [**Telephone/Fax (1) **], [**Doctor First Name 8679**]
   ICU Care
   Nutrition:
   TPN without Lipids - [**2149-10-26**] 07:12 AM 42 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2149-10-26**] 07:33 AM
   20 Gauge - [**2149-10-26**] 07:35 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2149-10-27 08:17:00 Physician Resident Progress Note
Chief Complaint: Passed clot PR
   24 Hour Events:
 PICC LINE - STOP [**2149-10-27**] 04:10 AM
 BLOOD CULTURED - At [**2149-10-27**] 06:34 AM
   x1 unable to get both.
 URINE CULTURE - At [**2149-10-27**] 06:34 AM
   - passed clot per rectum, no varices but coagulopathic
   - HCT 23>17
   - got 2u PRBCs, 2u FFP
   - HCT bumped to 22.3 with products but ordered add'l 1 unit
   - CT chest - Very minimal increase in the size of a large right chest
   wall hematoma, the presence of high-attenuation areas within the
   collection is suggestive of rebleeding.
   - extensive bleeding from penis.  urologuy called and felt that no
   acute intervention was indicated.  Foley is the treatment and support
   of coagulopathy.  Few small clots in urine, however, predominantly
   bleeding around foley
   - Transfused a total of 5 units pRBcs, 6 units FFP, and one unit Cryo
   - Hapto <20, Fibrinogen <100, Plt <100
   - Pt self-d/c'd PICC
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsCodeine
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: Dry mouth, No(t) OG / NG tube
   Nutritional Support: NPO, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Tachypnea
   Gastrointestinal: Diarrhea
   Genitourinary: Foley
   Integumentary (skin): Jaundice
   Flowsheet Data as of  [**2149-10-27**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (97
   HR: 55 (55 - 80) bpm
   BP: 113/62(74) {100/47(60) - 126/70(83)} mmHg
   RR: 15 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
           Total In:
                                                                  3,147 mL
                                                                  1,669 mL
   PO:
           TF:
   IVF:
                                                                    216 mL
                                                                     64 mL
   Blood products:
                                                                  2,222 mL
                                                                  1,430 mL
   Total out:
                                                                    589 mL
                                                                    228 mL
   Urine:
                                                                    589 mL
                                                                    228 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,558 mL
                                                                  1,441 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General Appearance: No(t) Well nourished
   Eyes / Conjunctiva: sclera icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: No(t) Soft, Bowel sounds present, Distended, high-pitched
   bowel sounds
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   66 K/uL
   9.8 g/dL
   124 mg/dL
   2.0 mg/dL
   18 mEq/L
   3.5 mEq/L
   37 mg/dL
   110 mEq/L
   137 mEq/L
   27.7 %
   7.5 K/uL
        [image002.jpg]
                            [**2149-10-26**]  12:32 PM
                            [**2149-10-26**]  05:00 PM
                            [**2149-10-26**]  07:43 PM
                            [**2149-10-26**]  07:48 PM
                            [**2149-10-26**]  11:33 PM
                            [**2149-10-27**]  05:46 AM
   WBC
   6.3
   6.8
   7.5
   Hct
   22.6
   23.5
   24.9
   21.1
   27.7
   Plt
   66
   71
   66
   Cr
   2.0
   Glucose
   124
   Other labs: PT / PTT / INR:17.0/58.3/1.5, Fibrinogen:83 mg/dL, LDH:334
   IU/L, Ca++:10.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Imaging: CT Chest wall [**10-26**] - 1. Very minimal increase in the size of
   the large right chest wall hematoma
   as described above. The presence of high-attenuation areas within the
   collection indicates re-bleeding.
   2. Stable bilateral pleural effusions and basal atelectasis.
   3. Non-calcified pulmonary nodules, largest 5-mm nodule in the right
   middle
   lobe. In the absence of risk factors, followup in one year is
   recommended to
   document stability.
   4. Cirrhotic liver and large abdominal ascites is stable.
   Assessment and Plan
   63 y.o. M with ESLD [**2-10**] ETOH cirrhosis c/b hepatic encephalopathy with
   lengthy hospital course c/b colonic pseudo-obstruction, traumatic foley
   placement, and bleeding from paracentesis site, transferred to ICU for
   hemodynamic monitoring.
   .
   # Blood Clot  PR x 1: Stable. H/o hemorrhoids on previous colonsocopy
   and varices on EGD (4 grade 1). Also with lupus anticoagulant.   Had
   bowel movement after coming to the ICU which was guaiac negative.
   - trend Hct, type and screen, transfuse for Hct < 22
   .
   # Coagulopathy: Has underlying liver disease as well as lupus
   anticoagulant positive.  Pt also with bleeding from abdominal para site
   and s/p traumatic foley placement
   - s/p vitamin K po x 1
   - FFP for INR > 2
   - Transfuse for HCT<22
   - Cryoprecipitate for fibrinogen < 100
   - DDAVP given in past, repeat PRN
   - s/p topical thrombin for abdominal wall site
   - Can use amicar for uncontrolled bleeding if necessary; dose 5gram
   loading dose over 1 hour followed by 5mg PO (check dosing interval)
   - trend Hct, plt's, INR and fibrinogen q 4 hours
   - CT scan chest wall showed no expansion of hematoma
   - if rebleeds into hematoma, it is unlikely that they would be able to
   intervene because a permanent bloackade was placed in the artery
   .
   # Chest Wall Hematoma: Has been stable by imaging with ? evidence of
   slow ooze by most recent CT.
   - repeat CT showed stable
   - follow clinically
   - correct coagulopathy
   .
   # Traumatic foley placement: Pt continues to ooze from urethra around
   catheter. Per urology, foley should be continued for at least one
   week.
   - serial hcts daily
   - bladder irrigation if clots in foley bag
   - penile u/s ordered to look for urethral tear
   - urology following
   .
   # Abdominal Wall Bleeding: Several small hematoma in abdomen, ascitic
   fluid w/o stigmata of bleeding, and otherwise notable for massive
   ascites.
   - correct coagulopathy as above
   - active T&S
   - transfuse for Hct<22 or active bleeding, HD instability
   .
   # Colonic Pseudo-obstruction: Has failed rectal tube, did not tolerate
   NG tube, sigmoidoscopy did not result in decompression for any
   sustained period, and high risk for neostigmine given bradycardia and
   risk of heart block.
   - weekly KUBs (tomorrow)
   .
   # ESLD: Not transplant candidate given active drinking.  Plans to have
   transplant eval at [**Hospital1 **].  [**Month (only) 11**] now have hepatorenal syndrome which will
   not be helped by acute blood loss
   - transplant eval at [**Hospital1 **] on discharge
   - measure bladder pressures to r/o compartment syndrome as ascites
   reaccumulates
   - Liver following
   .
   # Acute renal failure: likely 2/2 HRS
   - continue midodrine, octreotide
   - appreciate renal recs
   .
   # Diarrhea - Chronic, likely combination of lactulose and
   nonobstructing ileus. Colonic ileus is stable by CT and KUB. non-gap
   metabolic acidosis continues, but still likely related to diarrhea.
   Patient ambulating to bedside commode without problems. [**Name (NI) **] negative
   for celiac disease.
   - monitor labs including lytes
   - holding lactulose for now
   - replete lytes prn
   .
   # Mental Status: Opiate sedation resolving, mild asterixis.
   - avoid narcotics and sedating medications
   .
   # FEN: no IVFs / replete lytes prn / TPN
   # PPX: ranitidine, INR elevated
   # ACCESS: 1 PIV  18 gauge, 1 Double lumen PICC
   # CODE: FULL (confirmed)
   # CONTACT:  Sisters, ([**Telephone/Fax (1) 8678**] or [**Telephone/Fax (1) **], [**Doctor First Name 8679**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-10-26**] 07:35 AM
   22 Gauge - [**2149-10-27**] 06:39 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2149-10-28 07:39:00 Physician Resident Progress Note
Chief Complaint: HCT drop
   24 Hour Events:
 PICC LINE - START [**2149-10-27**] 05:00 PM
   -empiric ampicillin for +U/A and h/o enterococcus
   -started cipro for sbp ppx
   -L PICC replaced (but sitting in brachiocephalic vein so not central),
   can be used for draws/meds (no TPN) and may be redirected by IR in AM
   History obtained from Patient
   Allergies:
   History obtained from PatientCodeine
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-10-28**] 01:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies pain, bleeding
   Flowsheet Data as of  [**2149-10-28**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 61 (51 - 88) bpm
   BP: 113/66(78) {99/52(63) - 155/104(110)} mmHg
   RR: 16 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 89.7 kg
   Height: 72 Inch
                  Total In:
                                                                  2,589 mL
                                                                    720 mL
   PO:
                                                                    920 mL
                                                                    720 mL
   TF:
   IVF:
                                                                     64 mL
   Blood products:
                                                                  1,430 mL
   Total out:
                                                                    818 mL
                                                                    279 mL
   Urine:
                                                                    818 mL
                                                                    279 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,771 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%RA
   Physical Examination
   General Appearance: No(t) Well nourished
   Eyes / Conjunctiva: sclera icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly)
   Abdominal: No(t) Soft, Bowel sounds present, Distended, nontender
   high-pitched bowel sounds
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   75 K/uL
   8.1 g/dL
   104 mg/dL
   2.2 mg/dL
   18 mEq/L
   3.2 mEq/L
   42 mg/dL
   109 mEq/L
   138 mEq/L
   23.1 %
   8.2 K/uL
        [image002.jpg]
                            [**2149-10-26**]  12:32 PM
                            [**2149-10-26**]  05:00 PM
                            [**2149-10-26**]  07:43 PM
                            [**2149-10-26**]  07:48 PM
                            [**2149-10-26**]  11:33 PM
                            [**2149-10-27**]  05:46 AM
                            [**2149-10-27**]  11:56 AM
                            [**2149-10-27**]  09:25 PM
                            [**2149-10-28**]  03:05 AM
   WBC
   6.3
   6.8
   7.5
   8.2
   Hct
   22.6
   23.5
   24.9
   21.1
   27.7
   24.8
   23.9
   23.1
   Plt
   66
   71
   66
   69
   75
   Cr
   2.0
   1.9
   2.2
   Glucose
   124
   111
   104
   Other labs: PT / PTT / INR:22.6/75.5/2.1, Fibrinogen:130 mg/dL, LDH:334
   IU/L, Ca++:10.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Microbiology: [**2149-10-16**] 8:07 am PERITONEAL FLUID      PERITONEAL FLUID.
                               **FINAL REPORT [**2149-10-22**]**
      GRAM STAIN (Final [**2149-10-16**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      FLUID CULTURE (Final [**2149-10-19**]):    NO GROWTH.
      ANAEROBIC CULTURE (Final [**2149-10-22**]):    NO GROWTH.
   --------------------------------------
   Log-In Date/Time: [**2149-10-27**] 10:04 am
         URINE     Site: NOT SPECIFIED      CHEM# [**Serial Number 8811**]O.
      URINE CULTURE (Pending):
   Assessment and Plan
   63M with ETOH cirrhosis complicated by hepatic encephalopathy,
   esophageal varices, and coagulopathy with lengthy hospital course for
   colonic pseudoobstruction s/p endoscopic decompression, traumatic foley
   placement, bleeding from paracentesis site, and chest wall hematoma
   status post embolization x2, transferred back to ICU for hemodynamic
   monitoring in the setting of acute blood loss anemia.
   #Acute blood loss anemia
 Hct stabilized; multiple sources with
   reexpansion of chest wall hematoma, GU bleeding (less likely GI given
   brown BM with negative guaiac); presently hemostatic, Hct responded to
   supportive therapy with blood & factors but complicated by comorbid
   ESLD coagulopathy and possible superimposed DIC (although labs could be
   attributed to ESLD and no clear precipitant for DIC)
   -monitor Hct q8 today then broaden interval to q12h if stable x 24 hrs
   -active T&S, transfuse for Hct < 21%, <25% if active rebleeding
   -guaiac stools
   -appreciate surgery involvement
   #Coagulopathy: ESLD + lupus anticoagulant positive; has required ddavp
   & amicar in the past; s/p topical thrombin for abdominal wall site
   - coags q8h until clearly stabilized
   - FFP for INR > 2, cryo for fibrinogen < 100
   - DDAVP given in past, repeat PRN
   - consider amicar for uncontrolled bleeding; dose 5gram loading dose
   over 1 hour followed by 5mg PO (check dosing interval)
   #UTI
 positive U/A and dysuria (v. traumtized urethra), [**10-12**] UCx with
   10-100K amp-[**Last Name (un) 206**] enterococcus
   -empiric ampicilliin (cipro on board for sbp ppx) day [**2-15**]
   -f/u UCx
   # Traumatic foley placement: Pt continues to ooze from urethra around
   catheter. Per urology, foley should be continued for at least one week
   -appreciate urology involvement
   -eval/treatment as above
   - bladder irrigation if clots in foley bag
   - urology following
   # Colonic pseudoobstruction: failed rectal tube, did not tolerate NG
   tube, s/p endoscopic decompression [**10-6**]
   -f/u KUB read looking for (pseudo)obstruction
   # ESLD
 no e/o florid encephalopathy
   -appreciate liver recs
   -cipro for sbp ppx
   -hold lactulose given diarrhea
   -discuss goals of care with patient & family given ongoing ETOH use
   prior to admission
   # Acute renal failure: likely 2/2 HRS
   - continue midodrine, octreotide
   - appreciate renal recs
   # FEN: replete lytes prn / readdress TPN if PICC able to be replaced
   # PPX: H2blocker
   # ACCESS: 18g, 22 g; advance PICC in IR
   # CODE: FULL (confirmed); will likely benefit from goals of care
   discussion, as above
   # CONTACT:  Sisters, ([**Telephone/Fax (1) 8678**] or [**Telephone/Fax (1) **], [**Doctor First Name 8679**]
   ICU Care
   Nutrition: TPN when PICC repositioned
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-10-26**] 07:35 AM
   22 Gauge - [**2149-10-27**] 06:39 AM
   PICC Line - [**2149-10-27**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2blocker
   Communication:  Sister, ([**Telephone/Fax (1) 8678**] or [**Telephone/Fax (1) **], [**Doctor First Name 8679**]
   Code status: Full code
   Disposition: Stable for transfer to floor

2149-10-29 07:36:00 Physician Resident Progress Note
Chief Complaint: Bleeding
   24 Hour Events:
   [**10-28**]
   - HCT dropped from 23 to 20.5.  Transfused 1 u PRBC and 1 u cryo.  HCT
   bumped to 22.3.
   - Heme clarified the the factor inhibitor on the screen is lupus
   anticoagulant, which should not be associated with bleeding.  Bleeding
   is felt to be due to liver-related factor deficiencies and chronic
   DIC.  Recommended cryo, FFP.  Would avoid Amicar.
   - Liver reported that they are still evaluating him for transplant.
   This will mainly depend on if he has enough social support.  If he
   does, then Liver will discuss with Transplant Surgery.
   - PICC re-placed in IR
   Allergies:
   Codeine
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2149-10-28**] 01:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema
   Nutritional Support: No(t) NPO, Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, Bleeding around Foley
   Integumentary (skin): Jaundice, No(t) Rash
   Heme / Lymph: Anemia, Coagulopathy
   Neurologic: No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Delirious
   Flowsheet Data as of  [**2149-10-29**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 68 (61 - 104) bpm
   BP: 121/62(75) {111/46(63) - 147/64(106)} mmHg
   RR: 18 (13 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 93 kg (admission): 89.7 kg
   Height: 72 Inch
                  Total In:
                                                                  2,481 mL
                                                                    669 mL
   PO:
                                                                  1,160 mL
                  TF:
   IVF:
   Blood products:
                                                                    769 mL
   Total out:
                                                                    569 mL
                                                                    200 mL
   Urine:
                                                                    569 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,912 mL
                                                                    469 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, sclera icteric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anteriorly, No(t) Wheezes : , No(t) Absent : )
   Abdominal: Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, No(t) Cyanosis
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   69 K/uL
   7.8 g/dL
   116 mg/dL
   2.3 mg/dL
   18 mEq/L
   3.3 mEq/L
   45 mg/dL
   110 mEq/L
   137 mEq/L
   22.3 %
   7.4 K/uL
        [image002.jpg]
                            [**2149-10-26**]  07:43 PM
                            [**2149-10-26**]  07:48 PM
                            [**2149-10-26**]  11:33 PM
                            [**2149-10-27**]  05:46 AM
                            [**2149-10-27**]  11:56 AM
                            [**2149-10-27**]  09:25 PM
                            [**2149-10-28**]  03:05 AM
                            [**2149-10-28**]  02:00 PM
                            [**2149-10-29**]  12:16 AM
                            [**2149-10-29**]  02:15 AM
   WBC
   6.8
   7.5
   8.2
   8.0
   6.7
   7.4
   Hct
   24.9
   21.1
   27.7
   24.8
   23.9
   23.1
   20.5
   23.0
   22.3
   Plt
   71
   66
   69
   75
   71
   81
   69
   Cr
   2.0
   1.9
   2.2
   1.9
   2.3
   Glucose
   124
   [**Telephone/Fax (5) 8829**]
   Other labs: PT / PTT / INR:21.2/78.7/2.0, ALT / AST:14/30, Alk Phos / T
   Bili:59/7.6, Fibrinogen:168 mg/dL, LDH:334 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   63M with ETOH cirrhosis complicated by hepatic encephalopathy,
   esophageal varices, and coagulopathy with lengthy hospital course for
   colonic pseudoobstruction s/p endoscopic decompression, traumatic foley
   placement, bleeding from paracentesis site, and chest wall hematoma
   status post embolization x2, transferred back to ICU for hemodynamic
   monitoring in the setting of acute blood loss anemia.
   #Acute blood loss anemia
 Hct stabilized; multiple sources with
   reexpansion of chest wall hematoma, GU bleeding (less likely GI given
   brown BM with negative guaiac); presently hemostatic, Hct responded to
   supportive therapy with blood & factors but complicated by comorbid
   ESLD coagulopathy and possible superimposed DIC (although labs could be
   attributed to ESLD and no clear precipitant for DIC).  Pt seen by
   Heme-Onc and Lupus anticcoagulant not felt to be responsible for
   bleeding as it is prothrombotic.
   -monitor Hct q8 today then broaden interval to q12h if stable x 24 hrs
   -active T&S, transfuse for Hct < 21%, <25% if active rebleeding
   -guaiac stools
   -support with FFP and cryo for acute bleeding
   #Coagulopathy: ESLD + lupus anticoagulant positive; has required ddavp
   & amicar in the past; s/p topical thrombin for abdominal wall site
   - coags q8h until clearly stabilized
   - FFP for INR > 2, cryo for fibrinogen < 100
   - DDAVP given in past, repeat PRN
   - could also consider activated clotting factors if bleeding out of
   control
   #UTI
 positive U/A and dysuria (v. traumtized urethra), [**10-12**] UCx with
   10-100K amp-[**Last Name (un) 206**] enterococcus
   -empiric ampicilliin (cipro on board for sbp ppx) day [**3-15**]
   - UCx - no growth final, will d/c ampicillin
   # Traumatic foley placement: Pt continues to ooze from urethra around
   catheter. Per urology, foley should be continued for at least one week
   - appreciate urology involvement
   - eval/treatment as above
   - bladder irrigation if clots in foley bag
   - urology following
   # Colonic pseudoobstruction: failed rectal tube, did not tolerate NG
   tube, s/p endoscopic decompression [**10-6**]
   - weekly KUB read looking for (pseudo)obstruction q Monday
   # ESLD
 no e/o florid encephalopathy
   -appreciate liver recs
   -d/w liver re:  cipro for sbp ppx
   -hold lactulose given diarrhea
   -discuss goals of care with patient & family given ongoing ETOH use
   prior to admission
   # Acute renal failure: likely 2/2 HRS
   - continue midodrine, octreotide
   - appreciate renal recs, currently signed off
   # FEN: replete lytes prn / TPN and regular diet
   # PPX: H2blocker
   # ACCESS: 18g, 22 g; L-sided PICC
   # CODE: FULL (confirmed); will likely benefit from goals of care
   discussion, as above
   # CONTACT:  Sisters, ([**Telephone/Fax (1) 8678**] or [**Telephone/Fax (1) **], [**Doctor First Name 8679**]
   ICU Care
   Nutrition:
   TPN w/ Lipids - [**2149-10-28**] 06:00 PM 92 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2149-10-26**] 07:35 AM
   22 Gauge - [**2149-10-27**] 06:39 AM
   PICC Line - [**2149-10-27**] 05:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor